US07678815B2
5-Difluoromethyl-pyridin-3-ylamine
(5-Difluoromethyl-pyridin-3-yl)-carbamic acid tert-butyl ester (0.30 g, 1.2 mmol) was dissolved in 10 ml ethyl acetate and 8M HCl in EtOH (3 ml, 25 mmol) were added. The reaction mixture was stirred at room temperature for 2 h. The reaction mixture was quenched by addition of 20 ml sat. NaHCO3 solution and extracted three time with 50 ml ethyl acetate. The organic phases were pooled, dried with sodium sulfate and evaporated. The title compound was obtained as a brown oil (0.158 g, 89%).

reactant | (5-Difluoromethyl-pyridin-3-yl)-carbamic acid tert-butyl ester | 1.2 mmol, 0.30 g | C(C)(C)(C)OC(NC=1C=NC=C(C1)C(F)F)=O | C11H14F2N2O2
reactant | HCl | 8M | Cl | ClH
reactant | EtOH | 25 mmol, 3 ml | CCO | C2H6O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-Difluoromethyl-pyridin-3-ylamine | FC(C=1C=C(C=NC1)N)F | C6H6F2N2
